US09062076B2
To a stirred solution of methyl 5,6-dimethoxy-1H-indene-2-carboxylate (330 mg, 1.41 mmol) in THF (8 mL) and MeOH (4 mL) was added 2 N NaOH solution (3.5 mL) dropwise at room temperature. The resulting mixture was stirred at room temperature for 2 hours and the reaction was quenched with 1N HCl solution. Then mixture was diluted with water and the resulting suspension was filtered and the solid was dried under vacuum to give 5,6-dimethoxy-1H-indene-2-carboxylic acid (150 mg, 48%). LC-MS (ES-API); rt 8.44 min; m/z calculated for C12H12O4 [M−H]− 219.1, found 219.1.

reactant | methyl 5,6-dimethoxy-1H-indene-2-carboxylate | 1.41 mmol, 330 mg | COC=1C=C2C=C(CC2=CC1OC)C(=O)OC | C13H14O4
reactant | NaOH | 2 N, 3.5 mL | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
product | 5,6-dimethoxy-1H-indene-2-carboxylic acid | 150 mg, 48% | COC=1C=C2C=C(CC2=CC1OC)C(=O)O | C12H12O4
